US07501411B2
Step 2: (5-Amino-2-morpholin-4-yl-phenyl)-methanol
To a solution of (2-morpholin-4-yl-5-nitro-phenyl)-methanol (870 mg) in ethanol (40 mL) palladium hydroxide (87 mg) is added and the mixture is stirred in a Parr-apparatus under hydrogen pressure (10 bars) for 4 hours. The reaction mixture is filtrated over Celite 521, washed with ethanol and concentrated in vacuo to give the title compound (640 mg, 83%).

reactant | (2-morpholin-4-yl-5-nitro-phenyl)-methanol | 870 mg | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])CO | C11H14N2O4
solvent | ethanol | 40 mL, 87 mg | C(C)O | C2H6O
product | (5-Amino-2-morpholin-4-yl-phenyl)-methanol | 640 mg, 83% | NC=1C=CC(=C(C1)CO)N1CCOCC1 | C11H16N2O2
